US08049015B2
Cyclopropanecarboxylic acid benzyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-amide (60% pure; 1.07 g, 1.4 mmol), (5-bromo-pyridin-3-yl)-acetic acid ethyl ester (0.375 g, 1.5 mmol), and potassium carbonate (0.484 g, 3.5 mmol) were combined in DME (8 mL) and H2O (4 mL), and the solution was purged with N2 for 15 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.162 g, 0.14 mmol) was added, and the reaction was stirred at 90° C. overnight. The mixture was diluted with saturated aqueous NH4Cl and EtOAc. The aqueous layer was separated and extracted twice with EtOAc, and the combined organic layers were dried and concentrated. The residue was purified by preparative HPLC to give (5-{2-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester, which was then hydrolyzed in the following step, as well as the hydrolyzed product.

reactant | Cyclopropanecarboxylic acid benzyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-amide | 1.4 mmol, 1.07 g | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C25H29BF3NO3
reactant | (5-bromo-pyridin-3-yl)-acetic acid ethyl ester | 1.5 mmol, 0.375 g | C(C)OC(CC=1C=NC=C(C1)Br)=O | C9H10BrNO2
reactant | potassium carbonate | 3.5 mmol, 0.484 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 8 mL | COCCOC | C4H10O2
solvent | NH4Cl | [NH4+].[Cl-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 0.162 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-{2-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)C1CC1)CC1=CC=CC=C1)=O | C28H27F3N2O3
